US06927230B2
Potassium carbonate (279 mg, 2.02 mmol) and potassium iodide (335 mg, 2.02 mmol) was added to a solution of 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol (200 mg, 0.673 mmol) in dimethylformamide (2 mL). After 5 minutes stirring, 3-(chloromethyl)-1,2,4-oxadiazole (239 mg, 2.02 mmol) was added to the mixture and the mixture was heated at 100° C. for 1 hour. After cooling, ethyl acetate and water were poured into the mixture. The organic layer was separated, washed with water and brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by preparative-TLC (toluene-ethyl acetate 4:1). The desired product was triturated with isopropylether, isolated by filtration, and dried in vacuo to give 3-({[1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-yl]oxy}methyl)-1,2,4-oxadiazole (110 mg, 43.1% yield).

reactant | Potassium carbonate | 2.02 mmol, 279 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.02 mmol, 335 mg | [I-].[K+]
reactant | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-ol | 0.673 mmol, 200 mg | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)O | C16H15N3O3
reactant | 3-(chloromethyl)-1,2,4-oxadiazole | 2.02 mmol, 239 mg | ClCC1=NOC=N1 | C3H3ClN2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-({[1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazol-3-yl]oxy}methyl)-1,2,4-oxadiazole | 110 mg, 43.1% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)OCC1=NOC=N1 | C19H17N5O4
